US06949648B2
3-Methyl-1-(3-pyridinyl)-1H-pyrazol-5-ylamine dihydrochloride
A solution of aminocrotononitrile (8.21 g, 100 mmol) and 3-hydrazinopyridine dihydrochloride (20.7 g, 114 mmol) in water (50 mL) was mixed with conc. hydrochloric acid (15 mL), and the mixture was heated under reflux for 30 minutes. The solution was allowed to cool to room temperature, and the reaction solvent was evaporated under reduced pressure, and the resulting crystals were collected by filtration. The crystals obtained were washed with water and air dried to give the title compound (13.6 g, 55% yield).

reactant | aminocrotononitrile | 100 mmol, 8.21 g | N/C(/C#N)=C\C | C4H6N2
reactant | 3-hydrazinopyridine dihydrochloride | 114 mmol, 20.7 g | Cl.Cl.N(N)C=1C=NC=CC1
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 3-Methyl-1-(3-pyridinyl)-1H-pyrazol-5-ylamine dihydrochloride | 13.6 g, 55% yield | Cl.Cl.CC1=NN(C(=C1)N)C=1C=NC=CC1 | InChI=1S/C9H10N4.2ClH/c1-7-5-9(10)13(12-7)8-3-2-4-11-6-8;;/h2-6H,10H2,1H3;2*1H
